US09447106B2
Step 2: 7-(2-Aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of 7-(2-aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (350 mg, 0.91 mmol) in EtOH (4 mL) and DMSO (4 mL) was added NaOH aqueous solution (5 N, 2 mL) and H2O2 (2 mL). After stirring at 60° C. for 3 hr, the mixture was partitioned between 100 mL of H2O and 100 mL of EA. The organic layer was separated from aqueous layers, washed with saturated brines (100 mL×2), dried over Na2SO4 and concentrated. The residue was purified by chromatography column on silica gel (elution with DCM/MeOH) to afford 150 mg (41%) of desired product as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.37 (d, J=8.8 Hz, 2H), 6.97-6.92 (m, 3H), 6.75 (br s, 1H), 6.67 (d, J=8.0 Hz, 1H), 6.49 (t, J=7.6 Hz, 1H), 6.27 (d, J=7.6 Hz, 1H), 5.58-5.54 (m, 1H), 5.16 (s, 2H), 3.83 (d, J=7.2 Hz, 2H), 3.27-3.24 (m, 1H), 3.01-2.92 (m, 1H), 2.23-2.13 (m, 1H), 2.13-2.07 (m, 1H), 1.24-1.18 (m, 1H), 0.59-0.54 (m, 2H) and 0.34-0.30 (m, 2H). MS (ESI) m/e [M+1]+ 404.0.

reactant | 7-(2-aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.91 mmol, 350 mg | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OCC2CC2 | C23H23N5O
reactant | NaOH | 5 N, 2 mL | [OH-].[Na+]
reactant | H2O2 | 2 mL | OO | H2O2
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 7-(2-Aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 150 mg, 41% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OCC2CC2 | C23H25N5O2
